US07244730B2
(Step 9) tert-Butyl 4-(bromomethyl)-5-cyano-2-ethoxybenzoate
After dissolving tert-butyl 5-cyano-2-ethoxy-4-methylbenzoate (8.91 g) in carbon tetrachloride, N-bromosuccinimide (6.6 g) and benzoyl peroxide (400 mg) were added and the mixture was heated to reflux for 3 hours. The reaction mixture was filtered and concentrated. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield a mixture of the title compound and tert-butyl 5-cyano-2-ethoxy-4-methylbenzoate (starting material) (8.80 g) as a white solid.

reactant | tert-butyl 5-cyano-2-ethoxy-4-methylbenzoate | 8.91 g | C(#N)C=1C(=CC(=C(C(=O)OC(C)(C)C)C1)OCC)C | C15H19NO3
reactant | N-bromosuccinimide | 6.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 400 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | tert-butyl 5-cyano-2-ethoxy-4-methylbenzoate | 8.80 g | C(#N)C=1C(=CC(=C(C(=O)OC(C)(C)C)C1)OCC)C | C15H19NO3
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl 4-(bromomethyl)-5-cyano-2-ethoxybenzoate | BrCC1=CC(=C(C(=O)OC(C)(C)C)C=C1C#N)OCC | C15H18BrNO3
